US07199139B2
3-[4-[2-[[1-(4′-Fluoro-4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionic acid
The target compound (1.13 g) was obtained as colorless crystals by carrying out the reaction and the post-treatment according to Reference example 3 using ethyl 3-[4-[2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionate (1.44 g) obtained from Reference example 4 and an aqueous sodium hydroxide solution (1N, 5.0 ml).

reactant | ethyl 3-[4-[2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionate | 1.44 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)F | C33H31F2NO5
reactant | sodium hydroxide | 1N, 5.0 ml | [OH-].[Na+]
product | 3-[4-[2-[[1-(4′-Fluoro-4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionic acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)CC(C(=O)O)OC1=CC=C(C=C1)F | C31H27F2NO5
